US05081123
e. 6-Ethoxalylaminosulfonyl-7,8,9,10-tetrahydro-4-hydroxybenzo[f]quinoxaline-2,3(1H,4H)-dione
A suspension of 5-ethoxalylamino-8-ethoxalylaminosulfonyl-1,2,3,4-tetrahydro-6-nitronaphthalene (0.61 g, 1.3 mmol) in 100 ml of ethanol was hydrogenated at room temperature and atmospheric pressure in the presence of 60 mg of 5% platinum on carbon. After the theoretical absorption, the mixture was filtered and the filtrate was evaporated to dryness. The crude product (0.51g) was triturated with 50 ml of water, filtered off and then washed with water and a small amount of cold ethanol affording 0.28 g (53%) of the title compound. M.p. 267° C. decomp. (DSC); IR (KBr): 1725 cm-1 ; 1H-NMR (DMSO-d6): 1.23 (t,J=7Hz, 3H, CH3), 1.57-1.93 (m, 4H, 2CH2), 2.63-3.20 (m, 4H, 2CH2), 4.20 (q,J=7Hz, 2H, CH2), 7.98 (s, 1H, ArH), 11.5 (broad s, 1H, NH, only one exchangeable proton could be seen).

reactant | 5-ethoxalylamino-8-ethoxalylaminosulfonyl-1,2,3,4-tetrahydro-6-nitronaphthalene | 1.3 mmol, 0.61 g | C(=O)(C(=O)OCC)NC1=C2CCCCC2=C(C=C1[N+](=O)[O-])S(=O)(=O)NC(=O)C(=O)OCC | C18H21N3O10S
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | platinum on carbon | 60 mg | [Pt] | Pt
product | 6-Ethoxalylaminosulfonyl-7,8,9,10-tetrahydro-4-hydroxybenzo[f]quinoxaline-2,3(1H,4H)-dione | C(=O)(C(=O)OCC)NS(=O)(=O)C=1C2=C(C=3NC(C(N(C3C1)O)=O)=O)CCCC2 | C16H17N3O8S
